US04880819
Preparation of 4-{N-[(2-oxo-1-pyrrolidinyl)acetyl]-glycylglycylamino}pyridine
9.01 g of N-[(2-oxo-1-pyrrolidinyl)acetyl]glycine was dissolved in 160 ml of dimethylformamide and the solution was cooled to -13° C., to which 10.32 g of dicyclohexylcarbodiimide dissolved in 15 ml of dimethylformamide was added at -13° to -10° C. After stirring at -10° C. for 30 minutes, 4.53 g of 4-(glycylamino)pyridine was added at -10° to -8° C., which was stirred at -10° to -5° C. for 2 hours and 200 ml of methanol was added while maintaining the temperature at -5° to 0° C. The reaction liquid was allowed to stand so as to rise its temperature to room temperature over 2 hours and then methanol was distilled off under reduced pressure and the precipitated crystal was filtered off. This crystal was extracted with 20 ml of methanol and 100 ml of water, the insoluble matter was filtered off and the filtrate was concentrated to about 15 ml, to which 150 ml of ethanol was added and again the solution was concentrated to about 30 ml, allowed to stand and filterd to obtain 8.1 g of the crude crystal. This was dissolved in 20 ml of water and 200 ml of ethanol with warming and the resultant solution was concentrated to about 40 ml and allowed to stand and the crystal was filterd to obtain the titled compound.

reactant | N-[(2-oxo-1-pyrrolidinyl)acetyl]glycine | 9.01 g | O=C1N(CCC1)CC(=O)NCC(=O)O | C8H12N2O4
reactant | dicyclohexylcarbodiimide | 10.32 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-(glycylamino)pyridine | 4.53 g | NCC(=O)NC1=CC=NC=C1 | C7H9N3O
reactant | methanol | 200 ml | CO | CH4O
solvent | dimethylformamide | 160 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-{N-[(2-oxo-1-pyrrolidinyl)acetyl]-glycylglycylamino}pyridine | O=C1N(CCC1)CC(=O)NCC(=O)NCC(=O)NC1=CC=NC=C1 | C15H19N5O4
